US07569225B2
Triethylamine (6 g, 8.2 ml, 58 mmoles) was added to L-cysteine hydrochloride (3 g, 19 mmole) and 3-bromo-propan-1,2-diol (4.2 g, 2.36 ml, 27 mmole) in water and the homogeneous solution kept at room temperature for 3 days. The solution was reduced in vacuo at 40° C. to a white residue which was boiled with methanol (100 ml), centrifuged and the residue dissolved in water (5 ml). This aqueous solution was added to acetone (300 ml) and the precipitate isolated by centrifugation. The precipitate was purified by several precipitations from water with acetone to give S-(2,3-dihydroxypropyl)cysteine as a white amorphous powder (2.4 g, 12.3 mmol, 64.7%).

reactant | Triethylamine | 58 mmoles, 8.2 ml, 6 g | C(C)N(CC)CC | C6H15N
reactant | L-cysteine hydrochloride | 19 mmole, 3 g | Cl.N[C@@H](CS)C(=O)O
reactant | 3-bromo-propan-1,2-diol | 27 mmole, 2.36 ml, 4.2 g | BrCC(CO)O | C3H7BrO2
reactant | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
solvent | water | 5 ml | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | S-(2,3-dihydroxypropyl)cysteine | OC(CSC[C@H](N)C(=O)O)CO | C6H13NO4S
